US07960415B2
(S)-2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyric acid tert-butyl ester
To a cooled (0° C.) solution of (S)-2-(3-Amino-2-oxo-2H-pyridin-1-yl)-butyric acid tert-butyl ester (500 mg, 1.98 mmol) in dichloromethane (5 mL) was added triethylamine (220 mg, 2.18 mmol) followed by acetic anhydride (202 mg, 1.98 mmol). The reaction mixture was stirred at room temperature for 12 hours and then partitioned between EtOAc and aqueous 1M HCl. The organic layer was washed with saturated aqueous NaHCO3, brine (30 mL), dried (MgSO4), filtered and evaporated. The residue was purified by flash chromatography (40% ethyl acetate/hexane) to afford the title compound as a colourless oil (569 mg, 97%): 1H NMR (400 MHz, CDCl3) δ 0.87 (3H, t), 1.40 (9H, s), 1.91 (1H, m), 2.13 (3H, s), 2.19 (1H, m), 5.38 (1H, dd), 6.26 (1H, t), 6.99 (1H, d), 8.33 (1H, d), 8.43 (1H, br s).

reactant | (S)-2-(3-Amino-2-oxo-2H-pyridin-1-yl)-butyric acid tert-butyl ester | 1.98 mmol, 500 mg | C(C)(C)(C)OC([C@H](CC)N1C(C(=CC=C1)N)=O)=O | C13H20N2O3
reactant | triethylamine | 2.18 mmol, 220 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.98 mmol, 202 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyric acid tert-butyl ester | 569 mg, 97% | C(C)(C)(C)OC([C@H](CC)N1C(C(=CC=C1)NC(C)=O)=O)=O | C15H22N2O4
